US04689338
To a stirred solution of 50.Og (0.24 mole) of 4-chloro-3-nitroquinoline in 300 ml of tetrahydrofuran was added, in small portions, 52.7g (0.72 mole) of isobutylamine. The mixture was heated at its reflux temperature for one hour, and was then evaporated in vacuo. Water was added to the residue and the solid was separated by filtration. The solid was suspended in one liter of water, and was dissolved by the gradual addition of concentrated hydrochloric acid (to pH 3 to 4), at which time the solution was filtered. The filtrate was basified (to pH 9 to 10) by the addition of concentrated ammonium hydroxide to provide bright yellow 4-(isobutylamino)-3-nitroquinoline, m.p. 119°-121° C. The structural assignment was supported by infrared spectral analysis.

reactant | 4-chloro-3-nitroquinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | isobutylamine | 0.72 mole, 52.7g | C(C(C)C)N | C4H11N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-(isobutylamino)-3-nitroquinoline | C(C(C)C)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C13H15N3O2
